US07214824B2
3(a): 4-tert-butyl-3-methoxyphenol
To a suspension of zirconium tetrachloride (2.3 g, 10 mmol) in methylene dichloride (30 ml) was added methyl tert-butyl ether (0.88 g, 10 mmol) at 0° C. After stirring at 0° C. for 30 minutes, 3-methoxyphenol (1.24 g, 10 mmol) in methylene dichloride was added and the mixture was stirred for 2 hours at ambient temperature. The reaction was quenched with saturated aqueous sodium bicarbonate, followed by the addition of methylene dichloride. Then, the organic layer was separated, dried over magnesium sulfate, filtered off, evaporated under reduced pressure to give a residue, which was applied to a silica gel chromatography column eluted with a volume mixture of hexane and ethylacetate (20/1 to 4/1) to furnish 360 mg (20% yield) of the title compound as a white solid.

reactant | methyl tert-butyl ether | 10 mmol, 0.88 g | C(C)(C)(C)OC | C5H12O
reactant | 3-methoxyphenol | 10 mmol, 1.24 g | COC=1C=C(C=CC1)O | C7H8O2
solvent | methylene dichloride | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | zirconium tetrachloride | 10 mmol, 2.3 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
product | 4-tert-butyl-3-methoxyphenol | 360 mg, 20% yield | C(C)(C)(C)C1=C(C=C(C=C1)O)OC | C11H16O2
